US05162322
5-[4-[4-(2-Ethoxyphenyl)-1-piperazinyl]butyl]-3-methyl-2-oxazolidinone dihydrochloride.
Following the procedure of Example 5, a mixture of 5-(2-chlorobutyl)-3-methyl-2-oxazolidinone (5.2 g, 0.0272 mol), 1-(2-ethoxyphenyl)piperazine monohydrochloride (6.61 g, 0.0272 mol), potassium carbonate (15.05 g, 0.109 mol), and potassium iodide (1.0 g) in n-butanol (100 mL) gave an oil which was dissolved in a mixture of ethyl acetate/isopropyl ether/light pet ether (removing the impurities by filtration) and acidified with ethereal hydrogen chloride. The mixture was evaporated under reduced pressure and recrystallized once from isopropanol/methanol/isopropyl ether and then from isopropanol/isopropyl ether and dried under high vacuum at 60° C. to give 1.18 g (10% yield), mp 207°-212° C.

reactant | 5-(2-chlorobutyl)-3-methyl-2-oxazolidinone | 0.0272 mol, 5.2 g | ClC(CC1CN(C(O1)=O)C)CC | C8H14ClNO2
reactant | 1-(2-ethoxyphenyl)piperazine monohydrochloride | 0.0272 mol, 6.61 g | Cl.C(C)OC1=C(C=CC=C1)N1CCNCC1
reactant | potassium carbonate | 0.109 mol, 15.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
product | 5-[4-[4-(2-Ethoxyphenyl)-1-piperazinyl]butyl]-3-methyl-2-oxazolidinone dihydrochloride | 10% yield | Cl.Cl.C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCCCC1CN(C(O1)=O)C | InChI=1S/C20H31N3O3.2ClH/c1-3-25-19-10-5-4-9-18(19)23-14-12-22(13-15-23)11-7-6-8-17-16-21(2)20(24)26-17;;/h4-5,9-10,17H,3,6-8,11-16H2,1-2H3;2*1H
